US03946071
To a suitable reaction vessel equipped with a thermometer, agitator and venting means are charged approximately 500 parts by weight of isopropyl alcohol and approximately 53 parts by weight of thiolactic acid (about 1/2 mole). To the so-charged mass is added about 1 part by weight of concentrated H2SO4. The contents of the so-charged vessel are heated with agitation under a nitrogen atmosphere to reflux temperature and maintained at that temperature for about 4 hours. The contents are cooled to about room temperature. Excess alcohol is stripped off by distillation under vacuum. The liquid product may be vacuum distilled if a high purity product is desired. Isopropyl-alpha-mercapto-propionate is obtained.

reactant | thiolactic acid | about 1/2 mole | C(C(O)C)(=S)O | C3H6O2S
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
product | Isopropyl-alpha-mercapto-propionate | C(C)(C)OC(C(C)S)=O | C6H12O2S
